US03952101
To a stirred solution of 5-benzyloxy-6-hydroxymethyl-2-pyridinecarboxaldehyde (5.86 g., 0.0241 mol) in 100 ml. of ethyl acetate is added 4.056 g. (0.0265 mol) of phosphorus oxychloride and the mixture is refluxed for 20 minutes. Additional phosphorus oxychloride (0.4 ml.) is introduced and the mixture is heated further for 30 minutes. The reaction mixture is cooled, diluted with ether and then washed with 5% sodium bicarbonate solution and brine. The ethereal solution is dried, treated with charcoal, filtered and evaporated to leave an oil which crystallizes to give 5-benzyloxy-6-chloromethyl-2-pyridinecarboxaldehyde, m.p. 72°-73°C.

reactant | 5-benzyloxy-6-hydroxymethyl-2-pyridinecarboxaldehyde | 0.0241 mol, 5.86 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1CO)C=O | C14H13NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | phosphorus oxychloride | 0.0265 mol | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus oxychloride | 0.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | CCOCC | C4H10O
product | 5-benzyloxy-6-chloromethyl-2-pyridinecarboxaldehyde | C(C1=CC=CC=C1)OC=1C=CC(=NC1CCl)C=O | C14H12ClNO2
